US06291130B1
Synthesis of Methyl-2-adamantyl methacrylate (b1):
In 300 ml of tetrahydrofuran, 30 g of 2-methyl-2-adamantanol, 36 g of triethylamine and 4 g of N,N-dimethylaminopyridine were dissolved, and to the solution was dropwise added 29 g of methacrylic chloride under cooling with ice over a period of 30 minutes. The temperature of the solution was raised to room temperature and reacted as it was overnight. To the reaction solution was added 500 ml of distilled water under cooling with ice and then extracted with ethyl acetate. The organic layer was dried and concentrated to obtain a crude product. The crude product was purified by column chromatography to obtain 17 g of the desired compound.

reactant | 2-methyl-2-adamantanol | 30 g | CC1(C2CC3CC(CC1C3)C2)O | C11H18O
reactant | triethylamine | 36 g | C(C)N(CC)CC | C6H15N
reactant | methacrylic chloride | 29 g | C(C(=C)C)(=O)Cl | C4H5ClO
reactant | water | 500 ml | O | H2O
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | Methyl-2-adamantyl methacrylate | 17 g | C(C(=C)C)(=O)OC1C2(CC3CC(CC1C3)C2)C | C15H22O2
